2169-11-10 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 74 M with dialated cardiomyopathy s/p AICD placement
   admitted for hypotension in setting of amiodorone loading for VT.
   24 Hour Events:
   Felt unwell in evening, describing inability to slow down his
   breathing. Appeared tremulous, flushed, warm and generally
   uncomfortable. Vital signs were stable and CXR was unchanged
   (unofficially). Pt with increased productive cough. Pancultured and
   started on Levaquin.
   This morning feeling better, doesn
t remember events of the night.
   ROS:
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2169-11-9**] 08:00 PM
   Metoprolol - [**2169-11-9**] 08:40 PM
   Other medications:
   Flowsheet Data as of  [**2169-11-10**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 85 (77 - 119) bpm
   BP: 103/59(70) {84/48(56) - 134/77(88)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  2,445 mL
                                                                    565 mL
   PO:
                                                                  1,570 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    275 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                    620 mL
   Urine:
                                                                  3,845 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   Physical Examination
   GENERAL: NAD
   HEENT: MMM, JVP elevated at
   CARDIAC: RR, normal S1, S2. 1-2/6 systoloic murmur at LLSB without
   radiation.
   LUNGS: Diffuse wheezing.  Scattered crackles throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Pos BS.
   EXTREMITIES: No c/c/e. No femoral bruits.  WWP
   Labs / Radiology
   220 K/uL
   11.3 g/dL
   88 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   44 mg/dL
   96 mEq/L
   132 mEq/L
   34.4 %
   13.6 K/uL
        [image002.jpg]
                            [**2169-11-9**]  05:57 AM
                            [**2169-11-9**]  05:01 PM
                            [**2169-11-10**]  01:43 AM
   WBC
   12.5
   13.6
   Hct
   36.5
   34.4
   Plt
   261
   220
   Cr
   1.2
   1.5
   1.7
   TropT
   0.02
   0.02
   Glucose
   112
   87
   88
   Other labs: PT / PTT / INR:23.5/42.9/2.3, CK / CKMB /
   Troponin-T:37//0.02, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypotension in setting of amiodorone loading for VT.
   .
   VENTRICULAR ARRYTHMIA:  Likely VT, but also could represent a-fib with
   abarency.
   Etiology:
   -          ? fluid overload -> diuresing (neg 1.4 L)
          -      ? Infection given leukocytosis (although on prednisone),
   and development of mild fever, tachypnea and productive cough. ->
   started on Levaquin, pancultured, CXR unchanged
          -      ? ischemia  - enzymes neg
          -      ? PE unlikely given theraputic INR, but patient does have
   history.
   - beta blocker and amiodorone to suppress ectopic ventricular source
   - EP consult
   - restart coumadin if INR < 3
   .
   Systolic CONGESTIVE HEART FAILURE:  Continues to be fluid overloaded
   but diuresing well.
   .
   HYPERTENSION: on Cozaar and Metoprolol
   .
   COPD: Does not appear to be in acute flair
   - Albuterol/ipratroprium, advair
   .
   ACUTE ON CHRONIC RENAL FAILURE: Worsening renal function (Cr 1.7),
   although responding well to Lasix.
   .
   # FEN:  Cardiac diet, no IVF, lytes prn
   # ACCESS: PIV's
   # PROPHYLAXIS:  Restarted Warfarin at lower one time dose, to reeval
   this AM, Colase & Senna
   # CODE: Presumed full
                         Active Medications [**Known lastname 2634**],[**Known firstname **]
                11. Levofloxacin 500 mg PO Q24H day 1: [**11-9**]
   14. Metoprolol Tartrate 12.5 mg PO TID
   20. Warfarin 2.5 mg PO ONCE [**11-9**] AM
   12. Losartan Potassium 50 mg PO DAILY
   3. Amiodarone 0.5 mg/min IV INFUSION until PO in AM
   1. Advair Diskus *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]
   4. Amiodarone 400 mg PO BID
   2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:prn
   5. Atorvastatin 10 mg PO DAILY
   10. Ipratropium Bromide Neb 1 NEB IH Q4H:PRN
   18. PredniSONE 10 mg PO DAILY
   6. Docusate Sodium 100 mg PO BID
   7. Furosemide 80 mg IV ONCE at 1pm and 8pm
   19. Senna 1 TAB PO BID:PRN

2169-11-11 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-11**] 04:00 AM
 BLOOD CULTURED - At [**2169-11-11**] 05:53 AM
 FEVER - 103.2
F - [**2169-11-11**] 05:30 AM
 CALLED OUT
   Transient blood pressures in 70s, not called out.
   Tele: intermittent native ventricular beats.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-10**] 02:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-11-10**] 12:00 PM
   Coumadin (Warfarin) - [**2169-11-10**] 04:00 PM
   Pantoprazole (Protonix) - [**2169-11-11**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.8
C (101.9
   HR: 94 (81 - 106) bpm
   BP: 81/59(63) {69/33(40) - 109/77(86)} mmHg
   RR: 28 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                  2,096 mL
                                                                    480 mL
   PO:
                                                                  1,780 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    316 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    460 mL
   Urine:
                                                                  2,945 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -849 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   GENERAL: NAD
   HEENT: MMM, JVP
   CARDIAC: RR, normal S1, S2. 1-2/6 systoloic murmur at LLSB without
   radiation.
   LUNGS: Diffuse wheezing.  Scattered crackles throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Pos BS.
   EXTREMITIES: No c/c/e. No femoral bruits.  WWP
   Labs / Radiology
   242 K/uL
   12.3 g/dL
   131 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   39 mg/dL
   94 mEq/L
   133 mEq/L
   38.1 %
   13.1 K/uL
        [image002.jpg]
                            [**2169-11-9**]  05:57 AM
                            [**2169-11-9**]  05:01 PM
                            [**2169-11-10**]  01:43 AM
                            [**2169-11-11**]  04:04 AM
   WBC
   12.5
   13.6
   13.1
   Hct
   36.5
   34.4
   38.1
   Plt
   261
   220
   242
   Cr
   1.2
   1.5
   1.7
   1.4
   TropT
   0.02
   0.02
   Glucose
   112
   87
   88
   131
   Other labs: PT / PTT / INR:24.2/42.9/2.4, CK / CKMB /
   Troponin-T:37//0.02, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   B, U CX: NG
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypotension in setting of amiodorone loading for VT.
   .
   VENTRICULAR ARRYTHMIA:  Likely VT, A-fib with aberrancy unlikely given
   h/o AV nodal ablation.  VT has improved with no recent episodes of VT.
   Likely causes include volume overload and infection.  Patient now s/p
   2.2 L diuresis.  No evidence for ischemia as CE negative.  PE unlikely
   given therapeutic INR
   - Will diurese more gently with 80 mg PO Lasix with goal even to (-)
   500 cc.
   - beta blocker and amiodorone to suppress ectopic ventricular source
   - Coumadin with INR goal [**1-29**]
   .
   INFECTION:  Patient with leukocytosis (although on prednisone),
   temperature to 103.2, tachypnea, and productive cough.  Pulmonary is
   most likely source.  Has small wound on leg, but does not appear a
   likely source.
   - Vanc/Levoquin
   - Sputum culture
   .
   Systolic CONGESTIVE HEART FAILURE:  Continues to be fluid overloaded
   but diuresing well.
   .
   HYPERTENSION: on Cozaar and Metoprolol
   .
   COPD: Does not appear to be in acute flair
   - Albuterol/ipratroprium, advair
   .
   ACUTE ON CHRONIC RENAL FAILURE: Worsening renal function (Cr 1.7),
   although responding well to Lasix.
   .
   # FEN:  Cardiac diet, no IVF, lytes prn
   # ACCESS: PIV's
   # PROPHYLAXIS:  Theraputic INR, Colase & Senna
   # CODE: Presumed full
        1. Acetaminophen 650 mg PO Q6H:PRN  Order date: [**11-11**] @ 0358
   10. Losartan Potassium 50 mg PO DAILY
   hold for SBP<90  Order date: [**11-9**] @ 1328
   2. Advair Diskus *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]  Order date: [**11-9**]
   @ 0532
   11. Metoprolol Tartrate 12.5 mg PO TID
   Hold for HR < 60, SBP < 100  Order date: [**11-9**] @ 0437
   3. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB, wheezing  Order
   date: [**11-9**] @ 0332
   12. Pantoprazole 40 mg PO Q24H  Order date: [**11-11**] @ 0538
   4. Amiodarone 400 mg PO BID  Order date: [**11-10**] @ 0610
   13. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**11-9**] @
   0247
   5. Atorvastatin 10 mg PO DAILY  Order date: [**11-9**] @ 0530
   14. PredniSONE 10 mg PO DAILY  Order date: [**11-9**] @ 0437
   6. Docusate Sodium 100 mg PO BID  Order date: [**11-9**] @ 0604
   15. Senna 1 TAB PO BID:PRN  Order date: [**11-9**] @ 1050
   7. Furosemide 80 mg IV ONCE Duration: 1 Doses Order date: [**11-10**] @ 1047
   16. Vancomycin 1000 mg IV Q 24H
   ID Approval will be required for this order in 53 hours.  Order date:
   [**11-10**] @ 1059
   8. Ibuprofen 400 mg PO Q8H:PRN fever  Order date: [**11-11**] @ 0538
   17. Warfarin 2.5 mg PO DAILY16  Order date: [**11-10**] @ 1044
   9. Ipratropium Bromide Neb 1 NEB IH Q4H:PRN SOB, wheezing  Order date:
   [**11-9**] @ 0332

2169-11-12 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CXR with RLL consolidation.  ? PNA, atelectasis, infiltrate
   Good diuresis to 80 mg PO Lasix (neg 1L)
   14 beats of VT at 6:25AM, asymptomatic.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2169-11-11**] 12:45 PM
   Vancomycin - [**2169-11-11**] 02:00 PM
   See meds below
   Flowsheet Data as of  [**2169-11-12**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 82 (80 - 104) bpm
   BP: 109/66(76) {61/51(53) - 111/74(82)} mmHg
   RR: 28 (14 - 29) insp/min
   SpO2: 100% on NC
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,845 mL
                                                                     85 mL
   PO:
                                                                  1,620 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    225 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    580 mL
   Urine:
                                                                  2,430 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                   -495 mL
   Physical Examination
   GENERAL: NAD
   HEENT: MMM, JVP
   CARDIAC: RR, normal S1, S2. 1-2/6 systoloic murmur at LLSB without
   radiation.
   LUNGS: Diffuse wheezing.  Scattered crackles throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Pos BS.
   EXTREMITIES: No c/c/e. No femoral bruits.  WWP
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   11.5 g/dL
   93 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.9 mEq/L
   35 mg/dL
   94 mEq/L
   131 mEq/L
   34.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2169-11-9**]  05:57 AM
                            [**2169-11-9**]  05:01 PM
                            [**2169-11-10**]  01:43 AM
                            [**2169-11-11**]  04:04 AM
                            [**2169-11-12**]  05:44 AM
   WBC
   12.5
   13.6
   13.1
   10.1
   Hct
   36.5
   34.4
   38.1
   34.1
   Plt
   261
   220
   242
   210
   Cr
   1.2
   1.5
   1.7
   1.4
   1.2
   TropT
   0.02
   0.02
   Glucose
   112
   87
   88
   131
   93
   Other labs: PT / PTT / INR:27.9/45.6/2.8, CK / CKMB /
   Troponin-T:37//0.02, ALT / AST:164/80, Alk Phos / T Bili:94/0.9,
   LDH:251 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypotension in setting of amiodorone loading for VT.
   .
   VENTRICULAR ARRYTHMIA:  Likely VT, A-fib with aberrancy unlikely given
   h/o AV nodal ablation.  VT has improved with no recent episodes of VT.
   Likely causes include volume overload and infection.  Patient now s/p
   2.2 L diuresis.  No evidence for ischemia as CE negative.  PE unlikely
   given therapeutic INR
   - Will diurese more gently with 80 mg PO Lasix with goal even to (-)
   500 cc.
   - beta blocker and amiodorone to suppress ectopic ventricular source
   - Coumadin with INR goal [**1-29**]
   .
   INFECTION:  Patient with leukocytosis (although on prednisone),
   temperature to 103.2, tachypnea, and productive cough.  Pulmonary is
   most likely source.  Has small wound on leg, but does not appear a
   likely source.
   - Vanc/Levoquin, ?  If worsened, would broaden to zosyn and do chest
   CT.
   - Sputum culture
   .
   Systolic CONGESTIVE HEART FAILURE:  Continues to be fluid overloaded
   but diuresing well.
   .
   HYPERTENSION: on Cozaar and Metoprolol
   .
   COPD: Does not appear to be in acute flair
   - Albuterol/ipratroprium, advair
   .
   ACUTE ON CHRONIC RENAL FAILURE: Worsening renal function (Cr 1.7),
   although responding well to Lasix.
   .
   # FEN:  Cardiac diet, no IVF, lytes prn
   # ACCESS: PIV's
   # PROPHYLAXIS:  Theraputic INR, Colase & Senna
   # CODE: Presumed full
                         Active Medications [**Known lastname 2634**],[**Known firstname **]
                 1. Levofloxacin 750 mg PO Q24H Start [**11-11**]
   9. Docusate Sodium 100 mg PO BID
   2. Vancomycin 1000 mg IV Q 24H
   10. Acetaminophen 650 mg PO Q6H:PRN
   3. Warfarin 2.5 mg PO daily
   11. Advair Diskus *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]
   4. Amiodarone 400 mg PO BID
   12. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN
   5. Atorvastatin 10 mg PO DAILY
   13. Ibuprofen 400 mg PO Q8H:PRN
   6. Losartan Potassium 50 mg PO DAILY
   14. Ipratropium Bromide Neb 1 NEB IH Q4H:PRN SOB
   7. Metoprolol Tartrate 12.5 mg PO TID
   15. Pantoprazole 40 mg PO Q24H
   8. PredniSONE 10 mg PO DAILY
   16. Senna 1 TAB PO BID:PRN

2169-11-13 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  74 M with dialated cardiomyopathy s/p AICD placement
   admitted for hypotension in setting of amiodorone loading for VT.
   24 Hour Events:
   LFTs elevated thus had to stop amioderone. Plan to wash out and then
   consider Dofetilide vs. ablation per EP. Meanwhile several short runs
   of VT (not requiring Lidocaine).  Continues to be on Levaquin (concern
   for QT prolongation).
   Requested sleep aid, did not respond to benadryl, given ativan.
   Avoiding trazadone for arrhythmogenic reasons.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim) Hives;
   Vancomycin Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate) Unknown;
   Augmentin (Oral) Unknown;
   Cephalexin Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2169-11-11**] 12:45 PM
   Vancomycin - [**2169-11-12**] 11:59 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications: see below
   Flowsheet Data as of  [**2169-11-13**] 07:01 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.7
   HR: 81 (81 - 106) bpm
   BP: 102/63(71) {83/51(55) - 114/80(87)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,331 mL
                                                                    265 mL
   PO:
                                                                  1,020 mL
                                                                    240 mL
   TF:
             IVF:
                                                                    251 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                  1,215 mL
   Urine:
                                                                  2,385 mL
                                                                  1,215 mL
   Balance:
                                                                 -1,054 mL
                                                                   -950 mL
   Physical Examination
   Labs / Radiology
   223 K/uL
   11.3 g/dL
   87 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.8 mEq/L
   29 mg/dL
   93 mEq/L
   129 mEq/L
   34.7 %
   10.8 K/uL
        [image002.jpg]
                            [**2169-11-9**]  05:57 AM
                            [**2169-11-9**]  05:01 PM
                            [**2169-11-10**]  01:43 AM
                            [**2169-11-11**]  04:04 AM
                            [**2169-11-12**]  05:44 AM
                            [**2169-11-13**]  06:00 AM
   WBC
   12.5
   13.6
   13.1
   10.1
   10.8
   Hct
   36.5
   34.4
   38.1
   34.1
   34.7
   Plt
   261
   220
   242
   210
   223
   Cr
   1.2
   1.5
   1.7
   1.4
   1.2
   1.1
   TropT
   0.02
   0.02
   Glucose
   112
   87
   88
   131
   93
   87
   Other labs: PT / PTT / INR:32.5/45.6/3.4, CK / CKMB /
   Troponin-T:37//0.02, ALT / AST:164/80, Alk Phos / T Bili:94/0.9,
   Differential-Neuts:90.1 %, Lymph:4.9 %, Mono:3.1 %, Eos:1.8 %, LDH:251
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypotension in setting of amiodorone loading for VT.
   .
   VENTRICULAR ARRYTHMIA:  Likely VT, A-fib with aberrancy unlikely given
   h/o AV nodal ablation.  VT has improved with no recent episodes of VT.
   Likely causes include volume overload and infection.
   - Still fluid overloaded, will continue diuresis as tolerates
   - beta blocker and amiodorone to suppress ectopic ventricular source
   - Coumadin with INR goal [**1-29**]
   .
   INFECTION:  Suspect pulmonary infection. Sputum culture with GPC in
   clusters and 2 GNR. Responding well to Levaquin.
   - Continue Vanc/Levo for now,  If worsened, would broaden to zosyn to
   cover pseudomonas
   - Flu cultures, urine legionella, droplet precautions
   - Nebs and diuresis
   - Will consider increasing steroids to cover for COPD exacerbation +/-
   stress dose given chronic steroids.
   .
   Systolic CONGESTIVE HEART FAILURE:  Continues to be fluid overloaded,
   but SBP 80s. Will diurese with Lasix 80mg PO, and drip at 2mg/hr to be
   gentle on hemodynamics
   .
   HYPERTENSION: on Cozaar and Metoprolol
   .
   COPD: Does not appear to be in acute flair
   - Albuterol/ipratroprium, advair, prednisone
   .
   ACUTE ON CHRONIC RENAL FAILURE: Improved
   .
   # FEN:  Cardiac diet, no IVF, lytes prn
   # ACCESS: PIV's
   # PROPHYLAXIS:  Theraputic INR, Colase & Senna
   # CODE: Presumed full
                         Active Medications [**Known lastname 2634**],[**Known firstname **]
                     1. Acetaminophen 650 mg PO Q6H:PRN
   11. Lorazepam 0.5 mg PO ONCE
   2. Advair Diskus *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]
   12. Losartan Potassium 50 mg PO DAILY
   3. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN
   13. Ipratropium Bromide Neb 1 NEB IH Q4H:PRN
   4. Atorvastatin 10 mg PO DAILY
   14. Metoprolol Tartrate 12.5 mg PO TID
   5. Bisacodyl 10 mg PO/PR DAILY:PRN
   15. Pantoprazole 40 mg PO Q24H
   6. DiphenhydrAMINE 12.5 mg PO ONCE
   16. PredniSONE 10 mg PO DAILY
   7. Docusate Sodium 100 mg PO BID
   17. Senna 1 TAB PO BID:PRN
   8. Furosemide 2-10 mg/hr IV DRIP INFUSION
   18. Vancomycin 1000 mg IV Q 12H
   9. Ibuprofen 400 mg PO Q8H:PRN fever
   19. Warfarin 1 mg PO DAILY16
   10. Levofloxacin 750 mg PO Q24HStart [**11-11**]